US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (5-methyl-3-trifluoromethylisoxazol-4-yl)-amide
Starting from 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (0.1 g) and 5-methyl-3-trifluoromethylisoxazol-4-ylamine (78 mg). Purification by column chromatography eluting with 20-30% ethyl acetate in hexane afforded the title compound as a white solid (16 mg).

reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid | 0.1 g | FC(OC1=CC=C(C2=C1N=C(O2)CC)C(=O)O)F | C11H9F2NO4
reactant | 5-methyl-3-trifluoromethylisoxazol-4-ylamine | 78 mg | CC1=C(C(=NO1)C(F)(F)F)N | C5H5F3N2O
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (5-methyl-3-trifluoromethylisoxazol-4-yl)-amide | 16 mg | CC1=C(C(=NO1)C(F)(F)F)NC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C16H12F5N3O4
